### PR TITLE
[Merged by Bors] - feat(Topology/Connected/PathConnected): relate `ZerothHomotopy` and `ConnectedComponents`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Connected/LocPathConnected.lean [hunk 1]
```diff
@@ -109,6 +109,13 @@ theorem pathComponent_eq_connectedComponent (x : X) : pathComponent x = connecte
   (pathComponent_subset_component x).antisymm <|
     (IsClopen.pathComponent x).connectedComponent_subset (mem_pathComponent_self _)
 
+theorem zerothHomotopy_eq_connectedComponents : ZerothHomotopy X = ConnectedComponents X := by
```
Comment (plp127) [inline Mathlib/Topology/Connected/LocPathConnected.lean]: This is an equality of types, and depends on implementation details (that `ZerothHomotopy` and `ConnectedComponents` are both implemented as a `Quotient`).

Comment (SnirBroshi) [reply Mathlib/Topology/Connected/LocPathConnected.lean]: Do you mean that one day they might switch to using `Quot`, or just that we shouldn't rely on their specific definition?
I'm not opposed to changing this to an `Equiv`, but I'm not sure where the line is drawn between relying and not relying on defs, as we like defeqs sometimes, even if a def can change. Can you explain your thoughts a bit more?

Comment (plp127) [reply Mathlib/Topology/Connected/LocPathConnected.lean]: These probably won't switch to be something different from `Quotient`, but we still shouldn't rely on the specific definition, and equality of types like this is not a mathematically meaningful statement. For example it's impossible to prove or disprove the statement `Nat = Int`, because of their specific implementations as inductive types. And just having the statement it's not possible to deduce how terms behave under substitution, so for example to show `zerothHomotopy_eq_connectedComponents ▸⟦x⟧ = ConnectedComponents.mk x` you actually need the stronger statement that `pathSetoid X = connectedComponentSetoid X`.

Comment (SnirBroshi) [reply Mathlib/Topology/Connected/LocPathConnected.lean]: Changed this to an `Equiv` and added `connectedComponentSetoid X = pathSetoid X` that you suggested

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 2]
```diff
@@ -264,6 +264,22 @@ theorem pathComponent_subset_component (x : X) : pathComponent x ⊆ connectedCo
...
+  have ⟨y, hy, hz⟩ := mem_iUnion₂.mp h
+  exact connectedComponent_eq hy ▸ pathComponent_subset_component _ hz
+
+/-- There are at least as many path connected components as there are connected components -/
+theorem exists_zerothHomotopy_to_connectedComponents_surjective :
+    ∃ (f : ZerothHomotopy X → ConnectedComponents X), f.Surjective := by
+  refine ⟨.lift (⟦·⟧) ?_, ?_⟩
+  · exact fun _ _ h ↦ Quotient.sound <| connectedComponent_eq <| pathComponent_subset_component _ h
+  rintro ⟨x⟩
+  exact ⟨⟦x⟧, rfl⟩
```
Comment (j-loreaux) [inline Mathlib/Topology/Connected/PathConnected.lean]: I would factor this out as an actual definition, instead of just an existential. And you might as well use `Quotient.map` what you really want is the "identity" map between the quotients.

Also, it seems we're missing `Quotient.map_surjective`, can you please add it? Optionally you can use it for the theorem.
```suggestion
/-- The canonical map which sends a path component of `X` (as a term of `ZerothHomotopy X`) to the
connected component containing it (as a term of `ConnectedComponents X`). -/
def ZerothHomotopy.toConnectedComponents : ZerothHomotopy X → ConnectedComponents X :=
  Quotient.map id fun _ _ h ↦ connectedComponent_eq <| pathComponent_subset_component _ h

@[simp]
theorem ZerothHomotopy.toConnectedComponents_apply (x : X) : toConnectedComponents ⟦x⟧ = ⟦x⟧ :=
  rfl

/-- There are at least as many path connected components as there are connected components -/
theorem ZerothHomotopy.toConnectedComponents_surjective :
    (toConnectedComponents (X := X)).Surjective :=
  Quotient.lift_surjective _ _ Quotient.mk_surjective
```

File: Mathlib/Topology/Connected/PathConnected.lean [hunk 3]
```diff
@@ -264,6 +264,22 @@ theorem pathComponent_subset_component (x : X) : pathComponent x ⊆ connectedCo
   fun y h =>
   (isConnected_range h.somePath.continuous).subset_connectedComponent ⟨0, by simp⟩ ⟨1, by simp⟩
 
+/-- Every connected component is a union of path connected components -/
+theorem biUnion_connectedComponent_pathComponent_eq (x : X) :
+    (⋃ y ∈ connectedComponent x, pathComponent y) = connectedComponent x := by
+  ext z
+  refine ⟨fun h ↦ ?_, fun hz ↦ mem_iUnion₂.mpr ⟨z, hz, mem_pathComponent_self z⟩⟩
+  have ⟨y, hy, hz⟩ := mem_iUnion₂.mp h
+  exact connectedComponent_eq hy ▸ pathComponent_subset_component _ hz
```
Comment (j-loreaux) [inline Mathlib/Topology/Connected/PathConnected.lean]:
```suggestion
  simp only [Set.ext_iff, mem_iUnion₂]
  exact fun z ↦ ⟨fun ⟨y, hy, hz⟩ ↦ connectedComponent_eq hy ▸ pathComponent_subset_component _ hz,
    (⟨z, ·, mem_pathComponent_self z⟩)⟩
```

File: Mathlib/Topology/Connected/LocPathConnected.lean [hunk 4]
```diff
@@ -109,6 +109,23 @@ theorem pathComponent_eq_connectedComponent (x : X) : pathComponent x = connecte
...
+
+/-- In a locally path-connected space, connected components and path-connected components align -/
+def connectedComponentsEquivZerothHomotopy : ConnectedComponents X ≃ ZerothHomotopy X where
+  toFun := Quotient.lift Quotient.mk''
+    (Quotient.sound <| connectedComponent_eq_iff_joined · · |>.mp ·)
+  invFun := Quotient.lift Quotient.mk''
+    (Quotient.sound <| connectedComponent_eq_iff_joined · · |>.mpr ·)
+  left_inv := Quot.ind <| congrFun rfl
+  right_inv := Quot.ind <| congrFun rfl
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Connected/LocPathConnected.lean]:
```suggestion
  toFun := Quotient.map id (connectedComponent_eq_iff_joined · · |>.mp ·)
  invFun := ZerothHomotopy.toConnectedComponents
  left_inv := Quot.ind <| congrFun rfl
  right_inv := Quot.ind <| congrFun rfl

@[simp]
lemma connectedComponentsEquivZerothHomotopy_apply (x : X) :
    connectedComponentsEquivZerothHomotopy ⟦x⟧ = ⟦x⟧ := rfl

@[simp]
lemma coe_connectedComponentsEquivZerothHomotopy_symm :
    ⇑connectedComponentsEquivZerothHomotopy.symm = ZerothHomotopy.toConnectedComponents (X := X) :=
  rfl

lemma connectedComponentsEquivZerothHomotopy_symm_apply (x : X) :
    connectedComponentsEquivZerothHomotopy.symm ⟦x⟧ = ⟦x⟧ := by simp

```

**Review by j-loreaux — COMMENTED** [review]
bors merge
